US08349880B2
Methyl 2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (0.485 g, 1.642 mmol, from preparation B) and 6-chloro-2-(4-fluorophenyl)hexanoic acid (0.442 g, 1.806 mmol, from preparation AE) were coupled and then reacted with hydrazine (0.206 mL, 6.56 mmol) using a procedure analogous to Step A of Example 13. The crude products were purified using silica gel chromatography (0-95% ethyl acetate/chloroform) to afford 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (97 mg, 0.20 mmol, 12% yield). LC-MS (M+H)+ 488.2.

reactant | Methyl 2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 1.642 mmol, 0.485 g | I.FC1=C(C=C(C(=C1)N1N=C(N=C1)C)OC)NC(=N)SC
reactant | 6-chloro-2-(4-fluorophenyl)hexanoic acid | 1.806 mmol, 0.442 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)F | C12H14ClFO2
reactant | hydrazine | 6.56 mmol, 0.206 mL | NN | H4N2
product | 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 0.20 mmol, 97 mg, 12% yield | ClCCCCC(C1=CC=C(C=C1)F)C1=NC(=NN1)NC1=C(C=C(C(=C1)OC)N1N=C(N=C1)C)F | C23H24ClF2N7O
